US05021411
5.20 g (14 mmol) of 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one were heated to boiling under reflux for 4 hours with 1.04 g (18.5 mmol) of propargyl alcohol, 70 mg of bis-(triphenyl -phosphine)-palladium(II) dichloride and 10 mg of copper(I) iodide in 35 ml of diethylamine. The reaction mixture was evaporated and the residue was suspended in methylene chloride. The suspension was suction filtered and the suction filter cake was washed with ethyl acetate. After two successive recrystallizations from ethanol and, respectively, N,N-dimethylformamide there was obtained 7-chloro-4,5-dihydro-3-(3-hydroxy-1-propynyl)-5-methyl-6H -imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 250-252°.

reactant | 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 14 mmol, 5.20 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1I)C)=O | C12H9ClIN3O
reactant | propargyl alcohol | 18.5 mmol, 1.04 g | C(C#C)O | C3H4O
solvent | diethylamine | 35 ml | C(C)NCC | C4H11N
catalyst | bis-(triphenyl -phosphine)-palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 10 mg | [Cu]I
product | 7-chloro-4,5-dihydro-3-(3-hydroxy-1-propynyl)-5-methyl-6H -imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CCO)C)=O | C15H12ClN3O2
